US08217052B2
4-((S)-2-Methyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester
The title compound was prepared in a manner substantially the same as intermediate (2R,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester by condensing 4-(Toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester with (S)-(−)-2-methylpiperindine to get 2.60 g (97% yield) of the product as a pale yellow oil.

reactant | (2R,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1[C@@H](CCC1)C | C14H26N2O2
reactant | 4-(Toluene-4-sulfonyloxy)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
product | 4-((S)-2-Methyl-pyrrolidin-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1[C@H](CCC1)C | C15H28N2O2
